US05442119
In a dry sealable Schlenk flask under an argon atmosphere 0.0573 g (0.096 mmol) of (S,S)-ethylene-1,2-bis(η5 -4,5,6,7-tetrahydro-1-indenyl)titanium (S)-1,1'-binaphth-2,2'-diolate was dissolved in THF (10 mL). The vessel was degassed by exposure to vacuum (2 x~10 sec) and put under an atmosphere of hydrogen and subsequently cooled to 0° C. in an ice water bath. After equilibration, a solution of n-butyllithium (0.123 mL, 1.52M in hexanes, 0.187 mmol, 1.95 equiv) was added and the mixture was allowed to stir for 10 min. Phenylsilane (0.030 mL, 0.236 mmol, 2.4 equiv) was then added followed, after 5 minutes, by E-3-(4-methoxyphenyl)-2-methyl-1-methoxy-2-propene (0.345 g, 1.92 mmol, 20 equiv). The flask was sealed and the solution moved into a dry box and transferred to a Parr® high pressure reaction vessel containing a magnetic stir bar. The vessel was sealed and moved to a fume hood where it was charged to ~2000 psig with hydrogen and placed in an oil bath at 65° C. The reaction mixture was allowed to stir for 43.5 h. The vessel was cooled to room temperature, vented and opened to air. The reaction mixture was worked up by partitioning between diethyl ether/hexane (1/4) and water and separating the layers. The aqueous layer was extracted twice with ether/hexane and the combined organic layers were dried over MgSO4. The solvent was removed in vacuo and the residue distilled at reduced pressure to yield 0.225 g (1.42 mmol, 74%) of 3-(4-methoxyphenyl)-2-methyl-1-methoxypropane which had an ee of 92.7%.

reactant | n-butyllithium | 0.187 mmol, 1.52M, 0.123 mL, 1.95 equiv | C(CCC)[Li]
reactant | Phenylsilane | 0.236 mmol, 0.030 mL, 2.4 equiv | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | E-3-(4-methoxyphenyl)-2-methyl-1-methoxy-2-propene | 1.92 mmol, 0.345 g, 20 equiv | COC1=CC=C(C=C1)/C=C(/COC)\C | C12H16O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-methoxyphenyl)-2-methyl-1-methoxypropane | 1.42 mmol, 0.225 g, 74% | COC1=CC=C(C=C1)CC(COC)C | C12H18O2
